US04111935
3-Chloro-6-[2-(3-t-butylamino-2-hydroxypropoxy)phenyl]pyridazine
A mixture of 3-chloro-6-(2-epoxypropoxyphenyl)pyridazine (0.7 g), methanol (7 ml) and t-butylamine (1.7 ml) was stirred and heated under reflux for 11/4 hours. The mixture was evaporated under reduced pressure at 50° and the residue was recrystallised from toluene to give the title product (1.28 g) m.p. 136.5°-137.5°.

reactant | 3-chloro-6-(2-epoxypropoxyphenyl)pyridazine | 0.7 g | ClC=1N=NC(=CC1)C1=C(C=CC=C1)OCC1CO1 | C13H11ClN2O2
reactant | t-butylamine | 1.7 ml | C(C)(C)(C)N | C4H11N
solvent | methanol | 7 ml | CO | CH4O
product | 3-Chloro-6-[2-(3-t-butylamino-2-hydroxypropoxy)phenyl]pyridazine | 1.28 g | ClC=1N=NC(=CC1)C1=C(C=CC=C1)OCC(CNC(C)(C)C)O | C17H22ClN3O2
